US04567187
9.45 Grams of 7-acetyl-3,4-dihydrocarbostyril was dissolved in 30 ml of glacial acetic acid with stirring at 20° C., then a mixture of 2.6 ml of bromine with 10 ml of glacial acetic acid was added dropwise at a room temperature for 30 minutes with stirring. The reaction mixture was ice-cooled to precipitate crystals, and recrystalized from 50%-ethanol aqueous solution to obtain 7-α-bromoacetyl-3,4-dihydrocarbostyril.

reactant | 7-acetyl-3,4-dihydrocarbostyril | C(C)(=O)C1=CC=C2CCC(NC2=C1)=O | C11H11NO2
reactant | bromine | 2.6 ml | BrBr | Br2
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 7-α-bromoacetyl-3,4-dihydrocarbostyril | BrCC(=O)C1=CC=C2CCC(NC2=C1)=O | C11H10BrNO2
